US04966905
To a solution of 3-methyl-5-(1-hydroxyethyl)-isoxazole (47.6 g, 367 mM) in acetone (2 L) at 0° C., was added a solution of chromic anhydride (93.3 g, 933 mM), 6N aqueous sulfuric acid (186.15 mL, 1.1M) and water (186 mL) over two hours. After the reaction solution was allowed to warm to room temperature, saturated aqueous sodium chloride was added. The aqueous layer was extracted with dichloromethane (3×400 mL). The combined organic extracts were washed with saturated aqueous sodium sulfite (2×300 mL) and saturated aqueous sodium chloride (2×300 mL). The organic layer was dried over MgSO4, filtered and concentrated under reduced pressure to give 3-methyl-5-acetoxy-isoxazole as a yellow powder (27.8 g, 60%) that was used without further purification.

reactant | 3-methyl-5-(1-hydroxyethyl)-isoxazole | 367 mM, 47.6 g | CC1=NOC(=C1)C(C)O | C6H9NO2
reactant | sulfuric acid | 6N, 186.15 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | 186 mL | O | H2O
reactant | sodium chloride | [Cl-].[Na+]
reactant | acetone | 2 L | CC(=O)C | C3H6O
product | 3-methyl-5-acetoxy-isoxazole | 27.8 g, 60% | CC1=NOC(=C1)OC(C)=O | C6H7NO3
